US07405305B2
2-(Benzofur-4-yl)acetamide
Add 1,1′-carbonyldiimidazole (2.3 g, 14.2 mmol) to a solution of benzofur-4-ylacetic acid (2.5 g, 14.2 mmol) in anhydrous tetrahydrofuran (12 mL) under nitrogen and stir at 20° C. for 4 hours. Bubble anhydrous ammonia through the solution, dilute with anhydrous tetrahydrofuran (10 mL), and stir at 20° C. for 18 hours. Concentrate under reduced pressure, and wash the solid with aqueous sodium hydrogen sulfate and distilled water. Dry under vacuum to obtain 2.3 g (93%) of the title compound as a pale yellow solid. Mass spectrum (ES, m/z) (M+H)=176.1.

reactant | 1,1′-carbonyldiimidazole | 14.2 mmol, 2.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzofur-4-ylacetic acid | 14.2 mmol, 2.5 g | O1C=CC2=C1C=CC=C2CC(=O)O | C10H8O3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(Benzofur-4-yl)acetamide | 2.3 g, 93% | O1C=CC2=C1C=CC=C2CC(=O)N | C10H9NO2
